US07598264B2
Step 1: 1-(glycyloxy)butane chloride
To a suspension of glycine hydrochloride (10 g, 89.6 mmol) in 250 mL butanol under nitrogen was added thionyl chloride (45.7 mL, 627 mmol) dropwise. After the addition was complete, the solution was heated at 70° C. overnight. The volatile components were removed on the roto-evaporator and the residue was suspended and evaporated from toluene three times. The resulting crude gum was dissolved in an equal weight of toluene for easy transfer and was used as is in the next reaction.

reactant | glycine hydrochloride | 89.6 mmol, 10 g | Cl.NCC(=O)O
reactant | thionyl chloride | 627 mmol, 45.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | butanol | 250 mL | C(CCC)O | C4H10O
product | 1-(glycyloxy)butane chloride | [Cl-].NCC(=O)OCCCC | InChI=1S/C6H13NO2.ClH/c1-2-3-4-9-6(8)5-7;/h2-5,7H2,1H3;1H/p-1
